US05712267
(2S,4S)-4-Mercapto-2-[3-(4-nitrobenzyloxycarbonyl)-4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 8, but using 0.47 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 0.20 g of N,N'-carbonyldiimidazole and 0.70 g of 2-(4-nitrobenzyloxycarbonyl)-1-(4-nitrobenzyloxycarbonyl)piperazine, 270 mg of the title compound were obtained as an amorphous solid.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 0.47 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 2-(4-nitrobenzyloxycarbonyl)-1-(4-nitrobenzyloxycarbonyl)piperazine | 0.70 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2N(CCNC2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H20N4O8
product | (2S,4S)-4-Mercapto-2-[3-(4-nitrobenzyloxycarbonyl)-4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 270 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CC(N(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C33H32N6O13S
